*****************************************************************
* NXP BUK7Y98-80E
*
* Polarity N-Channel
* Ratings 80V/9.800000E-002OHMS/12.3061342051451A
*
* Date Created Tue Feb 05 03:11:44 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y98-80E DRAIN GATE SOURCE

LD DRAIN 5 3e-11
RLD2 DRAIN 5 0.075398223686155
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.01061929829747
RLS1 8 7 0.00062

RDS 7 4 80000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0554117379687658 TC=0.614646755157311,-0.00653195005682412
RBD 9 4 0.00656723011461574 TC=0.614646755157311,-0.00653195005682412
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.3e-10
RG 1 2 7.80259376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	356.994
+ -10	356.371
+ -8	355.515
+ -6	354.082
+ -5	352.614
+ -4	345.767
+ -3	349.862
+ -2	285.712
+ -1	215.5
+ -0.5	154.932
+ -0.2	119.055
+ -0.1	118.381
+ 0	106.41679
+ 0.1	93.62494
+ 0.2	93.51867
+ 0.5	85.68842
+ 1	76.2051
+ 2	62.9426
+ 3	58.08126
+ 4	55.35349
+ 5	53.42492
+ 6	51.96737
+ 8	49.78063
+ 10	48.05675
+ 12	46.60201
+ 15	44.77019
+ 16	44.20948
+ 20	42.35676
+ 25	40.47346
+ 30	38.96183
+ 50	35.15418



.MODEL MINT NMOS(Vto=3.35126796468304 Kp=1.187818e+001 Nfs=690000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=5.93651253403417e-14
+ N=1 M=0.53 VJ=0.5 Fc=0.5 Cjo=1.5485358e-10 Tt=1.38e-08)

.ENDS

